
.title Testbench for RCA + PMU (sky130) - PEX

** Include tecnology library and standard cells
.lib "/foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

** Include spice netlist of the circuit
.include "rca_pex.spice"

** Global parameters
.param VDD_VAL 		= 1.8
.param VSS_VAL 		= 0
.param CLOAD   		= 10f
.param TRISE   		= 0.2n
.param TFALL   		= 0.2n
.param CLK_PERIOD	= 15n

** Global nodes used in sky130 standard cells
.global VGND VNB VPB VPWR

** Power sources
Vsupply VPWR 0 DC {VDD_VAL}
Vground VGND 0 DC {VSS_VAL}
VbulkP  VPB  0 DC {VDD_VAL}
VbulkN  VNB  0 DC {VSS_VAL}

** Logic constant generators
Vlogic0 logic_0 0 DC {VSS_VAL}
Vlogic1 logic_1 0 DC {VDD_VAL}

** Generation of input stimuli
** clk -> clk
Vclk clk 0 PULSE(0 {VDD_VAL} {CLK_PERIOD/2} {TRISE} {TFALL} {CLK_PERIOD/2} {CLK_PERIOD})

** rst -> rst
Vrst rst 0 PWL(0 {VDD_VAL} {CLK_PERIOD} {VDD_VAL} {CLK_PERIOD+TFALL} 0)

** delay_sel -> delay_sel
Vdelay_sel0 delay_sel0 0 DC {VSS_VAL}
Vdelay_sel1 delay_sel1 0 DC {VDD_VAL}
Vdelay_sel2 delay_sel2 0 DC {VDD_VAL}

** DUT instantiation
Xdut VGND VPWR
** a (0xFFFF)
+ logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1 logic_1
** b (0x0007)
+ logic_1 logic_0 logic_0 logic_0 logic_0 logic_0 logic_0 logic_1 logic_1 logic_0 logic_0 logic_0 logic_0 logic_0 logic_0 logic_0
** cin (0)
+ logic_0
+ clk cout delay_sel0 delay_sel1 delay_sel2
+ rst
+ s_0 s_10 s_11 s_12 s_13 s_14 s_15 s_1 s_2 s_3 s_4 s_5 s_6 s_7 s_8 s_9 
+ tdo rca

** Output capacitor
Cout tdo 0 {CLOAD}
Ctdo tdo 0 {CLOAD}
Ccout cout 0 {CLOAD}
Cs0 s_0 0 {CLOAD}
Cs1 s_1 0 {CLOAD}
Cs2 s_2 0 {CLOAD}
Cs3 s_3 0 {CLOAD}
Cs4 s_4 0 {CLOAD}
Cs5 s_5 0 {CLOAD}
Cs6 s_6 0 {CLOAD}
Cs7 s_7 0 {CLOAD}
Cs8 s_8 0 {CLOAD}
Cs9 s_9 0 {CLOAD}
Cs10 s_10 0 {CLOAD}
Cs11 s_11 0 {CLOAD}
Cs12 s_12 0 {CLOAD}
Cs13 s_13 0 {CLOAD}
Cs14 s_14 0 {CLOAD}
Cs15 s_15 0 {CLOAD}

** Tran simulation
.tran 0.04n 60n uic

.control
	run
	** Plots
	set color0=white
	set color1=black
	
	plot v(clk)+2 v(rst)+2 v(xdut.pmu_inst/dc_inst.in) v(xdut.pmu_inst/shadow_q) title 'Shadow FF'
	plot v(clk)+2 v(rst)+2 v(xdut.pmu_inst/capture_d) v(xdut.pmu_inst/capture_q) title 'Capture FF'
	plot v(clk)+2 v(rst)+2 v(xdut.pmu_inst/_00_) v(tdo) title 'Monitor FF'
	plot v(xdut.cout_next)+2 v(xdut.pmu_inst/capture_d)+2 v(tdo) title 'Propagation delays'
	plot v(delay_sel2)+4 v(delay_sel1)+2 v(delay_sel0) title 'delay_sel'
	
	write data.raw v(clk) v(rst) v(xdut.pmu_inst/dc_inst.in) v(xdut.pmu_inst/shadow_q)
	+ v(xdut.pmu_inst/capture_d) v(xdut.pmu_inst/capture_q) v(xdut.pmu_inst/_00_) v(tdo)
	+ v(xdut.cout_next) v(delay_sel2) v(delay_sel1) v(delay_sel0)
	+ v(s_0) v(s_1) v(s_2) v(s_3) v(s_4) v(s_5) v(s_6) v(s_7) v(s_8) v(s_9) v(s_10) v(s_11) v(s_12) v(s_13) v(s_14) v(s_15) v(cout)
.endc

.end
